US06300517B1
A solution of 2.11 g (17.0 mmol) of methylphenylphosphine in 20 ml of 1,2-dimethoxyethane was admixed with 0.67 g (17.0 mmol) of potassium metal. After the metallation reaction was complete, 3.0 g (15.7 mmol) of sodium 2-(2-fluorophenyl)glycinate were added and the reaction mixture was heated at 80° C. for 0.5 hour. Subsequently, excess potassium phenylmethylphosphide was hydrolyzed by addition of 10 ml of methanol and the volatile constituents were taken off from the reaction mixture under reduced pressure (80° C., 0.01 mbar). The residue was extracted with 50 ml of ether, dissolved in 500 ml of water and the pH was adjusted to about 4 by addition of 10% strength hydrochloric acid. The 2-(methylphenyl)phosphino-α-phenylglycine obtained as colorless precipitate was filtered off and dried under reduced pressure. The yield was 3.46 g (81%). For further purification, the product was recrystallized from methanol/water (1:1).

reactant | methylphenylphosphine | 17.0 mmol, 2.11 g | CPC1=CC=CC=C1 | C7H9P
reactant | potassium | 17.0 mmol, 0.67 g | [K] | K
reactant | sodium 2-(2-fluorophenyl)glycinate | 15.7 mmol, 3.0 g | FC1=C(C=CC=C1)C(N)C(=O)[O-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
product | 2-(methylphenyl)phosphino-α-phenylglycine | CC1=C(C=CC=C1)PC(N)(C(=O)O)C1=CC=CC=C1 | C15H16NO2P
